US07772243B2
Step 2: 4-Piperidin-1-yl-but-2-enoic acid —HCl
4-Piperidin-1-yl-but-2-enoic acid methyl ester (2.05 g, 11.2 mmol) and concentrated hydrochloric acid (10 mL) were combined in dioxanes (30 mL) and heated to reflux overnight. The mixture was concentrated in vacuo. The residue was crystallized from IPA to yield the desired product (390 mg, 17%). 400 MHz 1H NMR (DMSO-d6) δ 6.80 (dt, 1H, J=15.6, 7.1 Hz), 6.14 (d, 1H, J=15.6 Hz), 3.85 (d, 1H, J=7.1 Hz), 2.89 (m, 4H), 1.54 (m, 6H), MS m/z 170 (M+1).

reactant | 4-Piperidin-1-yl-but-2-enoic acid methyl ester | 11.2 mmol, 2.05 g | COC(C=CCN1CCCCC1)=O | C10H17NO2
reactant | hydrochloric acid | 10 mL | Cl | ClH
product | 4-Piperidin-1-yl-but-2-enoic acid —HCl | 390 mg, 17% | Cl.N1(CCCCC1)CC=CC(=O)O | InChI=1S/C9H15NO2.ClH/c11-9(12)5-4-8-10-6-2-1-3-7-10;/h4-5H,1-3,6-8H2,(H,11,12);1H
